US08809539B2
To a solution of piperidine-1,3,3-tricarboxylic acid 1-(2,2,2-trichloroethyl) 3,3-dibenzyl ester (5.5 g 15 mmol) in N,N-dimethylformamide (200 mL) cooled with a water/ice bath, is added potassium hydroxyde (0.9 g 85% 14 mmol) dissolved in water (40 mL). The mixture is stirred with cooling for 2 h, allowed to warm to room temperature, acidified with acetic acid (1.05 ew) and concentrated under reduced pressure. Addition of water cristallizes the crude which is filtered, dissolved in ethyl acetate, washed with water, dried over magnesium sulphate and concentrated under reduced pressure. Cristallisation with heptane affords piperidine-1,3,3-tricarboxylic acid 1-(2,2,2-trichloroethyl) 3-benzyl ester.

reactant | piperidine-1,3,3-tricarboxylic acid 1-(2,2,2-trichloroethyl) 3,3-dibenzyl ester | 15 mmol, 5.5 g | C(C1=CC=CC=C1)OC(=O)C1(CN(CCC1)C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC1=CC=CC=C1 | C24H24Cl3NO6
reactant | potassium | [K] | K
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | water | 40 mL | O | H2O
product | piperidine-1,3,3-tricarboxylic acid 1-(2,2,2-trichloroethyl) 3-benzyl ester | C(C1=CC=CC=C1)OC(=O)C1(CN(CCC1)C(=O)OCC(Cl)(Cl)Cl)C(=O)O | C17H18Cl3NO6
